US07989633B2
Ethyl 2,6-dimethyl-5-(4-fluorobenzoyl)-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate
210 mg (1.11 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 145 mg (1.11 mmol) of ethyl 3-oxobutanoate, 200 mg (1.11 mmol) of 3-amino-1-(4-fluorophenyl)but-2-en-1-one and 6 μl (0.11 mmol) of acetic acid in 10 ml of 2-propanol and heated under reflux under argon for 30 h. The solvent is removed in vacuo, and the residue is purified by preparative HPLC. 172 mg (33% of theory) of the title compound are obtained as a yellow solid.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 1.11 mmol, 210 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | ethyl 3-oxobutanoate | 1.11 mmol, 145 mg | O=C(CC(=O)OCC)C | C6H10O3
reactant | 3-amino-1-(4-fluorophenyl)but-2-en-1-one | 1.11 mmol, 200 mg | NC(=CC(=O)C1=CC=C(C=C1)F)C | C10H10FNO
reactant | acetic acid | 0.11 mmol, 6 μl | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | Ethyl 2,6-dimethyl-5-(4-fluorobenzoyl)-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | CC=1NC(=C(C(C1C(=O)OCC)C=1C=CC=C2C(C=C(OC12)C)=O)C(C1=CC=C(C=C1)F)=O)C | C27H24FNO5
